US07300931B2
Synthesis of 4-Bromo-2-fluoro-phenylacetic acid:
4-Bromo-2-fluoro-phenylacetamide (1.3 gm) was suspended in 100 ml of 30% NaOH, heating at reflux temperature for 24 hrs, cooled to room temperature, washed with DCM and ethyl acetate. The aqueous layer was acidified with conc. HCl, extracted with ethyl acetate, evaporated; the residue was crystallized from isopropanol-water to give needle crystals (0.5 gm, 38%) H1-NMR INOVA-500 (DMSO d6) δ 3.619 (s, 2H), 7.316 (t, J=8.0 Hz, 1H), 7.379 (dd, J=8.0, 1.5 Hz, 1H), 7.516 (dd, J=8.0, 1.5 Hz, 1H), 12.555 (s, 1H).

reactant | 4-Bromo-2-fluoro-phenylacetamide | 1.3 gm | BrC1=CC(=C(C=C1)CC(=O)N)F | C8H7BrFNO
reactant | NaOH | 100 ml | [OH-].[Na+]
product | 4-Bromo-2-fluoro-phenylacetic acid | 0.5 gm, 38% | BrC1=CC(=C(C=C1)CC(=O)O)F | C8H6BrFO2
